US07601716B2
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
(5-Iodo-3-nitro-pyridin-2-ylamino)-acetic acid ethyl ester (17 g) was dissolved in ethanol. SnCl22H2O was added and the reaction mixture was heated to 80° C. for two (2) hours. The resulting precipitate was filtered and washed with ethanol to give the title compound as a rust colored solid (59-77% yield). M.p. 81° C., LCMS: m/z=275.91 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 3.94 (s, 2H), 6.94 (bs, 1H), 7.12 (d, J=1.8 Hz, 1H), 7.74 (s, J=1.8 Hz, 1H), 10.40 (bs, 1H).

reactant | (5-Iodo-3-nitro-pyridin-2-ylamino)-acetic acid ethyl ester | 17 g | C(C)OC(CNC1=NC=C(C=C1[N+](=O)[O-])I)=O | C9H10IN3O4
solvent | ethanol | C(C)O | C2H6O
product | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
